datasets/RMG-dataset.csv
rxn,Ea
[C:0]([H:1])[H:2].[H:3][H:4]>>[C:0]([H:1])([H:2])[H:4].[H:3],0.0
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8]([H:9])([H:10])[H:11]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][C:8]([H:9])([H:10])[H:11],22.932504
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:21]([c:22]1[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]1[H:34])([H:28])[H:29])[H:11])([H:9])[H:10],36.0661
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[S:8]=[C:9][S:10][H:11]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9](=[S:8])[S:10][H:11],52.7184
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])=[C:9]([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])([H:19])[H:20])[H:18])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]1([H:16])[C:3]([H:17])=[C:4]([H:18])[C:5]([H:19])([H:20])[C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])[H:15])([H:13])[H:14],129.453
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:14](=[C:15]([H:17])[H:18])[H:16])[H:6],8.24248
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[S:8]([C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:17])[H:18])[H:16]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:17])([H:3])[H:4].[S:8]([C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])[H:18])[H:16],-7.5312
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:10])([H:3])[H:4].[C:8]([C:9]([H:13])([H:14])[H:15])([H:11])[H:12],17.1544
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([C:9](=[C:10]([H:18])[H:19])[H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:6]([C:7]([C:8]([C:9](=[C:10]([H:18])[H:19])[H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12],30.5432
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](#[C:11][C:12]([C:13]([H:16])([H:17])[H:18])[C:14]([H:19])([H:20])[H:21])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11]#[C:10][H:15])([C:13]([H:16])([H:17])[H:18])[C:14]([H:19])([H:20])[H:21],37.656
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])([C:4]([O:5][O:6][H:18])([H:16])[H:17])[O:7][O:8][H:19])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([H:11])[H:12])[C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:9])[H:10].[O:7][O:8][H:19],64.852
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](#[C:25][C:26]([H:28])[H:29])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25]#[C:24][H:27])([H:28])[H:29])[H:12],42.3002
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11]([O:12])([H:13])([H:14])[H:15]>>[C:0]([C:1]([O:2][C:3]=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:12][C:11]([H:13])([H:14])[H:15],20.92
[S:0]([S:1][H:3])[H:2]>>[H:2].[S:0][S:1][H:3],310.0
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26]([H:27])([H:28])[H:29]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:26]([H:27])([H:28])[H:29],30.083
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4]>>[C:0](#[C:1][C:2](=[C:3]([H:7])[H:8])[H:5])[H:4].[H:6],191.518416
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11][O:12][H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:11][O:12][H:13],71.79744
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9]#[C:10][H:23])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9]#[C:10][H:23])[H:11],66.9022
